US09056874B2
(±)-Ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate
HCl in dioxane (4 M, 2.28 mL, 9.13 mmol) was added to a solution of a mixture of (±)-ethyl 2-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate and (±)-ethyl 2-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate (600 mg, 0.913 mmol) in EtOH (12 mL) at room temperature. The resulting mixture was stirred at 60° C. overnight then partitioned between EtOAc and sat. aq. NaHCO3. The aqueous layer was extracted with EtOAc. The combined organics were washed with brine, dried, and concentrated to give the title compound. The residue was taken onto the next step without further purification. MS (ESI+) m/z 527.3 (M+H).

reactant | HCl | Cl | ClH
reactant | dioxane | 9.13 mmol, 4 M, 2.28 mL | O1CCOCC1 | C4H8O2
reactant | (±)-ethyl 2-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate | C(#N)C1=CC2=C(N(C(=N2)C(C(=O)OCC)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C35H40N4O5SSi
reactant | (±)-ethyl 2-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate | 0.913 mmol, 600 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C(=O)OCC)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C35H40N4O5SSi
solvent | EtOH | 12 mL | CCO | C2H6O
product | (±)-Ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate | C(#N)C1=CC2=C(NC(=N2)C(C(=O)OCC)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C29H26N4O4S
